US07247734B2
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (0.87 g, 6 mmol), 3,4-dimethoxy-phenylacetic acid (1.18 g, 6 mmol), BF3Et2O (4 ml), PCl5 (1.9 g, 9.1 mmol), DMF (5 ml and 10 ml). The precipitate formed was filtered and re-crystallized from methanol to give 6-Chloro-3-(3,4-dimethoxy-phenyl)-7-hydroxy-chromen-4-one an off white solid (1.4 g, 70.20%); Rf 0.72 ethyl acetate.

reactant | 4-Chlororesorcinol | 6 mmol, 0.87 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | 3,4-dimethoxy-phenylacetic acid | 6 mmol, 1.18 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | PCl5 | 9.1 mmol, 1.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-3-(3,4-dimethoxy-phenyl)-7-hydroxy-chromen-4-one | ClC=1C=C2C(C(=COC2=CC1O)C1=CC(=C(C=C1)OC)OC)=O | C17H13ClO5
